US08242133B2
A mixture of 0.50 g of 4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridin-3-ol, 1.23 g of potassium carbonate and 14 ml of DMF was stirred while heating at 70° C. for three hours with chlorodifluoromethane gas injected. By stopping injection of gas, the mixture was cooled to room temperature and allowed to stand overnight. Water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.11 g of 2-(3-difluoromethoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 126”).

reactant | 4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridin-3-ol | 0.50 g | FC(C=1C=CC2=C(N=C(O2)C2=C(C=NC=C2)O)C1)(F)F | C13H7F3N2O2
reactant | potassium carbonate | 1.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 14 ml | CN(C)C=O | C3H7NO
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | Water | O | H2O
product | 2-(3-difluoromethoxypyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.11 g | FC(OC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F)F | C14H7F5N2O2
